USRE041439E1
(1S,4S)-2-(5-(4-Methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane
To a stirred solution of unpurified (1S,4S)-2-(5-(4-methoxyphenoxy)-3-pyridyl)-5-tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane (0.37 g) in anisole (3.0 mL) at 0-5° C. under a nitrogen atmosphere, trifluoroacetic acid (2.0 mL) was added dropwise over a 10 min. period. After 0.5 h at 0-5° C. the solution was adjusted to pH 5 using 10% NaOH, followed by extraction with diethyl ether (1×10 mL) to remove the anisole. The aqueous portion was adjusted to pH 11 using 10% NaOH, followed by extraction with diethyl ether (3×25 mL). The combined diethyl ether extracts were dried (Na2SO4), filtered and concentrated under vacuum to give a yellow oil (0.26 g). The material was used without further purification.

reactant | 2,5-diazabicyclo[2.2.1]heptane | 0.37 g | C12NCC(NC1)C2 | C5H10N2
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
reactant | anisole | 3.0 mL | C1(=CC=CC=C1)OC | C7H8O
product | (1S,4S)-2-(5-(4-Methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane | 0.26 g | COC1=CC=C(OC=2C=C(C=NC2)N2[C@@H]3CN[C@H](C2)C3)C=C1 | C17H19N3O2
